US09359362B2
Ethyl (rac)-6-(4-cyanophenyl)-8-methyl-9-[3-(trifluoromethyl)phenyl]-6,9-dihydropyrimido[2,1-f]-purine-7-carboxylate
(rac)-Ethyl 6-(4-cyanophenyl)-8-methyl-6,9-dihydropyrimido[2,1-f]purine-7-carboxylate (30 mg, 0.08 mmol), 3-(trifluoromethyl)phenylboronic acid (31 mg, 0.17 mmol, 2 eq.), anhydrous copper(II) acetate (30 mg, 0.17 mmol, 2 eq.) and molecular sieve (100 mg, 4 Å) were initially charged. Under an atmosphere of argon, abs. dichloromethane (5 ml), pyridine (27 μl, 0.33 mmol, 4 eq.) and triethylamine (23 μl, 0.17 mmol, 2 eq.) were added. After 12 h of stirring, the mixture was filtered over kieselguhr and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (5.6 mg, 13% of theory).

reactant | (rac)-Ethyl 6-(4-cyanophenyl)-8-methyl-6,9-dihydropyrimido[2,1-f]purine-7-carboxylate | 0.08 mmol, 30 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC2=NC=3N=CN=CC3N21)C)C(=O)OCC | C19H16N6O2
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.17 mmol, 31 mg, 2 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 0.33 mmol, 27 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.17 mmol, 23 μl, 2 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 0.17 mmol, 30 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl (rac)-6-(4-cyanophenyl)-8-methyl-9-[3-(trifluoromethyl)phenyl]-6,9-dihydropyrimido[2,1-f]-purine-7-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C2=NC=3N=CN=CC3N21)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C26H19F3N6O2
